US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-propionyl-4-(2,6-dimethylanilino)butyric acid and ethyl 4-(benzylamino)butyrate and suitable processing produces ethyl N-[N-propionyl-4-(2,6-dimethylanilino)butyryl]-4-(benzylamino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-propionyl-4-(2,6-dimethylanilino)butyryl]-4-(benzylamino)butyric acid (oil).

reactant | N-propionyl-4-(2,6-dimethylanilino)butyric acid | C(CC)(=O)N(C1=C(C=CC=C1C)C)CCCC(=O)O | C15H21NO3
reactant | ethyl 4-(benzylamino)butyrate | C(C1=CC=CC=C1)NCCCC(=O)OCC | C13H19NO2
product | ethyl N-[N-propionyl-4-(2,6-dimethylanilino)butyryl]-4-(benzylamino)butyrate | C(CC)(=O)N(C1=C(C=CC=C1C)C)CCCC(=O)N(CCCC(=O)OCC)CC1=CC=CC=C1 | C28H38N2O4
